* Z:\mnt\spice-netlists\LT1618.asc
C1 IN 0 4.7µ
D1 N002 OUT MBR0520L
C2 N005 0 .01µ
R1 IN N001 .1
V1 IN 0 5
C3 0 OUT 4.7µ
R2 OUT N003 909K
R3 N003 0 107K
R4 N004 N005 2K
R5 N007 0 13K
M§Q1 N007 N009 0 0 IRF7201
V2 N009 0 3.3
R6 N007 N006 20K
V3 N006 0 3.3
L1 N001 N002 10µ
I1 OUT 0 100m load
XU1 N003 N001 IN N007 0 MP_01 N002 IN N006 N004 LT1618
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1m startup
* LT1618 - 1.5A, 1.4MHz, Constant Current/Constant Voltage Step-up DC/DC Converter\nInput: 5V      Output: 12V @ 100mA
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2006 Linear Technology Inc. All rights reserved.
* Typical Application:\n   USB to 12V Boost Converter (with selectable 500mA/100mA Input Current Limit)
* 0V=OFF
* 3.3V=ON
* 0V=100mA Limit
* 3.3V=500mA Limit
.lib LT1618.sub
.backanno
.end
