* Z:\mnt\spice-netlists\LT1619.asc
L1 IN N001 10µ
M§Q1 N001 N003 N007 N007 FDC637AN
V1 IN 0 3.3
C1 N006 0 150p
C2 N005 0 .0015µ
R1 N007 0 0.025
R2 N002 0 12.4K
R3 OUT N002 37.4K
R4 N006 N005 47K
C3 OUT 0 .1µ
C4 IN 0 10µ
XU1 IN N002 N006 0 N007 N003 OUT IN LT1619
D1 N001 OUT MBRS130L
Rload OUT 0 6.66
C5 OUT 0 47µ
C6 OUT N004 470p
R6 N004 N002 5.1K
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1m startup
* LT1619 - Low Voltage Current Mode PWM Controller 300kHz Step-Up Switching Regulator\nInput: 3.3V    Output: 5V @ 1A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2006 Linear Technology Inc. All rights reserved.
.lib LT1619.sub
.backanno
.end
