* Z:\mnt\spice-netlists\LT1765.asc
C1 N001 N002 .22µ
L1 N002 OUT 2.5µ
R1 OUT N004 17.4K
R2 N004 0 10K
D1 0 N002 MBRS340
D2 OUT N001 CMDSH2-3
V1 IN 0 12
C2 N006 0 1000p
C3 OUT 0 10µ
C4 IN 0 2.2µ
XU1 N001 IN N002 0 N003 N004 N005 LT1765
I1 OUT 0 2 load
R3 N006 N005 4.7K
C5 OUT N004 62p
C6 N005 0 100p
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 500u startup
* LT1765 - 3A, 1.25MHz, Wide Input Range Step-Down DC/DC Converter\nInput: 12V       Output: 3.3V @ 2A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2006 Linear Technology Inc. All rights reserved.
.lib LT1765.sub
.backanno
.end
