* Z:\mnt\spice-netlists\LT1766.asc
L1 N002 OUT 47µ
C1 0 N005 .022µ
C2 N002 N001 .33µ
D1 0 N002 30BQ060
C3 OUT 0 100µ
R1 OUT N007 15.4K
R2 N007 0 4.99K
D2 OUT N001 MMSD4148
V1 IN 0 12
C5 N006 0 220p
R4 N006 N005 3.3K
C4 IN 0 2.2µ
Rload OUT 0 5
XU1 0 N002 MP_01 IN MP_02 N001 MP_03 MP_04 MP_05 OUT N006 N007 MP_06 N004 N003 LT1766
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 2m startup
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2006 Linear Technology Inc. All rights reserved.
* LT1766 - High Voltage 60V 1.5A Peak Switch Current 200kHz Monolithic Step-Down Switching Regulator\nInput: 12V      Output: 5V @ 1A
.lib LT1766.sub
.backanno
.end
