* Z:\mnt\spice-netlists\LT1932.asc
R1 N004 0 1.5K
L1 IN N001 6.8µ
V1 IN 0 3
D1 N001 OUT MBR0540
C1 OUT 0 1µ
XU1 N001 0 N005 N004 IN IN LT1932
D2 OUT N002 NSPW500BS
D3 N002 N003 NSPW500BS
D4 N003 N006 NSPW500BS
D5 N006 N005 NSPW500BS
C2 IN 0 4.7µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran .3m startup
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2006 Linear Technology Inc. All rights reserved.
* LT1932 -  1.2MHz Step-Up LED Driver\nInput: 3V     Output: 15mA through four white LEDs
.lib LT1932.sub
.backanno
.end
