* Z:\mnt\spice-netlists\LT1933.asc
C2 N001 N002 .01µ
L1 N002 OUT 22µ
R1 OUT N004 16.5K
R2 N004 0 10K
D1 0 N002 MBRS140
D2 OUT N001 1N4148
V1 IN 0 12
C1 OUT 0 22µ
R3 OUT 0 6.6
C3 N003 0 .1µ
R4 IN N003 15K
XU1 N001 0 N004 N003 IN N002 LT1933
C4 IN 0 2.2µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran .5m startup
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2006 Linear Technology Inc. All rights reserved.
* LT1933 -  600mA 500kHz Step-Down Switching Regulator\nInput: 12V     Output: 3.3V @ 500mA
.lib LT1933.sub
.backanno
.end
