* Z:\mnt\spice-netlists\LT1936.asc
XU1 N001 IN N002 0 IN N003 N005 NC_01 LT1936
C1 IN 0 2.2µ
C2 N001 N002 0.22µ
C3 OUT 0 47µ
C4 OUT N003 100p
R1 N003 0 10K
R2 OUT N003 31.6K
V1 IN 0 12
R3 N005 N004 68.1K
C5 N004 0 150p
C6 N005 0 18p
D1 OUT N001 CMDSH2-3
D2 0 N002 MBRS140
L1 N002 OUT 10µ
I1 OUT 0 1.2 load
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran .5m startup
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2006 Linear Technology Inc. All rights reserved.
* LT1936 - 1.4A, 500KHz Step-Down Switching Regulator\nInput: 6.8V to 36V       Output: 5V @ 1.2A
.lib LT1936.sub
.backanno
.end
