* Z:\mnt\spice-netlists\LT1937.asc
L1 IN N001 22µ
V1 IN 0 3.6
D1 N001 OUT CMDSH2-3
C1 OUT 0 .22µ
XU1 N001 0 N004 IN IN LT1937
R1 N004 0 6.34
D2 OUT N002 NSPW500BS
D3 N002 N003 NSPW500BS
D4 N003 N004 NSPW500BS
C2 IN 0 1µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran .2m startup
* LT1937 -  1.2MHz White LED Step-Up Converter\nInput: 3.6V     Output: 15mA through three white LEDs
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2006 Linear Technology Inc. All rights reserved.
.lib LT1937.sub
.backanno
.end
