* Z:\mnt\spice-netlists\LT1941.asc
V1 IN 0 12
C1 N014 0 1500p
C2 N008 N010 .1µ
R1 OUT1 N012 13.7K
R2 0 N012 7.32K
D1 0 N010 DFLS220L
D2 IN N008 CMDSH2-3
C3 OUT1 0 33µ
C4 N017 N018 3300p
R3 IN N001 100K
C5 N011 0 1500p
C6 N005 N007 .1µ
R4 OUT2 N009 10.7K
R5 0 N009 2.49K
D3 0 N007 PMEG2010AEB
D4 OUT2 N005 CMDSH2-3
R6 N003 IN 100K
XU1 IN MP_01 N010 MP_02 N008 N001 N017 N012 N003 N020 N009 N014 N011 N022 IN N004 N002 N023 N015 N016 N006 MP_03 N007 N005 MP_04 MP_05 N013 IN 0 LT1941
R7 N006 IN 100K
R8 IN N002 100K
R9 N004 IN 100K
R10 0 N018 2.2K
R11 0 N021 10K
C7 N020 N021 1000p
R12 0 N024 1.5k
C8 N023 N024 0.022µ
C9 N022 0 1500p
C10 N013 N019 1µ
D5 N019 0 1N5818
C11 OUT3 0 10µ
L1 IN N013 22µ
L2 OUT3 N019 22µ
L3 N007 OUT2 3.3µ
R13 N015 OUT3 133K
R14 N016 N015 13.7K
C12 IN 0 10µ
C13 IN 0 4.7µ
L4 N010 OUT1 3µ
C14 OUT2 0 22µ
Rload2 OUT2 0 2.35
Rload3 OUT3 0 22
Rload1 OUT1 0 0.75
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1.3m startup
* LT1941 - Triple Monolithic Switching Regulator\nInput: 4.7V to 14V      Outputs: 1.8V@2.4A  3.3V@1.4A  -12V@0.55A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2007 Linear Technology Inc. All rights reserved.
.lib LT1941.sub
.backanno
.end
