* Z:\mnt\spice-netlists\LT1945.asc
V1 IN 0 3.6
C1 IN 0 4.7µ
XU1 N004 IN 0 IN N005 N001 0 IN 0 N003 LT1945
L1 IN N003 10µ
L2 IN N001 10µ
D1 N001 POS 1N4148
C2 POS N005 4.7p
R1 POS N005 1Meg
R2 N005 0 115K
C3 POS 0 1µ
C4 N003 N002 .1µ
D2 N002 0 1N4148
D3 NEG N002 1N4148
R3 N004 NEG 365K
R4 0 N004 24.9K
C5 N004 NEG 100p
C6 0 NEG 1µ
I1 POS 0 20m load
I2 0 NEG 10m load
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1.2m startup
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2006 Linear Technology Inc. All rights reserved.
* LT1945 - Dual µPower Step-Up DC/DC Converter\nInput: 2.7V to 5V     Outputs: 12V @ 20mA and -20V @ 10mA
.lib LT1945.sub
.backanno
.end
