* Z:\mnt\spice-netlists\LT1976.asc
L1 N002 OUT 33µ
C1 0 N006 1500p
C2 N002 N001 .1µ
D1 0 N002 30BQ060
C3 OUT 0 100µ
R1 OUT N008 165K
R2 N008 0 100K
D2 OUT N001 1N4148
V1 IN 0 12
XU1 MP_01 N002 MP_02 IN MP_03 N001 N009 0 N004 OUT N007 N008 N008 MP_04 IN N003 LT1976
C5 OUT N004 .1µ
R4 N007 N006 10K
C8 0 N009 .01µ
R5 N003 OUT 100K
Iload OUT 0 1 load
R3 OUT N005 24K
C6 N005 N008 47p
C7 N007 0 220p
C4 IN 0 10µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 18m startup
* LT1976 - High Voltage 1.5A 200kHz Step-Down Switching Regulator with 100uA Quiescent Current\nInput: 12V       Output: 3.3V @ 1A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2006 Linear Technology Inc. All rights reserved.
.lib LT1976.sub
.backanno
.end
