* Z:\mnt\spice-netlists\LT3430.asc
L1 N002 OUT 22µ
C1 0 N004 .022µ
C2 N002 N001 .68µ
D1 0 N002 30BQ060
C3 OUT 0 100µ
R1 OUT N006 15.4K
R2 N006 0 4.99K
D2 OUT N001 MMSD4148
V1 IN 0 12
XU1 0 N002 MP_01 IN MP_02 N001 MP_03 MP_04 MP_05 OUT N005 N006 MP_06 MP_07 N003 LT3430
C5 N005 0 220p
R4 N005 N004 3.3k
C4 IN 0 4.7µ
Rload OUT 0 2.5
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1.2m startup
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2006 Linear Technology Inc. All rights reserved.
* LT3430 - High Voltage 60V 3A Peak Switch Current 200kHz Monolithic Step-Down Switching Regulator\nInput: 12V    Output: 5V @ 2A
.lib LT3430.sub
.backanno
.end
