* Z:\mnt\spice-netlists\LT3431.asc
L1 N002 OUT 10µ
C1 N004 0 .015µ
C2 N002 N001 .22µ
D1 0 N002 30BQ060
R1 OUT N006 15.4K
R2 N006 0 4.99K
D2 OUT N001 MMSD4148
V1 IN 0 12
C3 N005 0 220p
R3 N005 N004 1.5K
C4 IN 0 2.2µ
Rload OUT 0 2.5
XU1 0 N002 MP_01 IN MP_02 N001 MP_03 MP_04 MP_05 OUT N005 N006 MP_06 MP_07 N003 LT3431
C5 OUT 0 47µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran .5m startup
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2006 Linear Technology Inc. All rights reserved.
* LT3431 - High Voltage 60V 3A Peak Switch Current 500kHz Monolithic Step-Down Switching Regulator\nInput: 12V    Output: 5V @ 2A
.lib LT3431.sub
.backanno
.end
