* Z:\mnt\spice-netlists\LT3433.asc
L1 N002 N006 100µ
V1 IN 0 5
R2 OUT N007 305K
R3 N007 0 100K
Rload OUT 0 40
C3 N004 0 1000p
R6 N005 N004 68K
C5 N003 0 .01µ
C6 N002 N001 .1µ
D4 N006 OUT 1N5817
D1 0 N002 1N5819
D3 OUT N001 1N4148
D2 OUT N008 1N4148
C1 0 N008 .1µ
XU1 0 N001 N002 IN 0 N005 N007 MP_01 MP_02 N003 IN N008 OUT 0 N006 LT3433
C4 IN 0 2.2µ
C2 OUT 0 47µ
C7 N005 0 330p
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 5m startup
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2006 Linear Technology Inc. All rights reserved.
* LT3433 - High Voltage 60V Step-Up / Step-Down Converter with Burst Mode\nInput: 5V    Output: 5V @ 125mA
.lib LT3433.sub
.backanno
.end
