* Z:\mnt\spice-netlists\LT3437.asc
XU1 N002 IN N001 0 N003 OUT N005 N006 MP_01 IN LT3437
L1 N002 OUT 100µ
D1 0 N002 MBRS1100
D2 OUT N001 1N4148
V1 IN 0 24
R1 OUT N006 165K
R2 N006 0 100K
C1 OUT N003 .1µ
C2 N005 N004 1500p
R3 N004 0 25K
C3 OUT N006 27p
C4 OUT 0 100µ
C5 N005 0 330p
C6 IN 0 2.2µ
C7 N001 N002 .1µ
Rload OUT 0 8.25
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 12m startup
* LT3437 - High Voltage 500mA 200kHz Step-Down Switching Regulator with 100uA Quiescent Current\nInput: 24V    Outout: 3.3V @ 400mA
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2006 Linear Technology Inc. All rights reserved.
.lib LT3437.sub
.backanno
.end
